US07312359B2
A solution of 6-fluoro-3,4-dihydro-2H-naphthalen-1-one (5.51 g, 33.56 mmol), benzenethiol (4.07 g, 3.79 mL, 36.92 mmol) and K2CO3 (9.28 g, 67.12 mmol) in 50 mL of N-methylpyrrolidinone (NMP) was heated to 80° C. under argon and stirred at 80° C. for 2 hours. The reaction mixture was poured int 500 mL of water and diluted with 300 mL of EtOAc. The layers were separated and the aqueous layer was extracted twice with 250 mL of EtOAc. The combinded organic layers were washed with water, saturated brine, and then dried over MgSO4. The solvent was removed under reduced pressure to yield an oil which was eluted through silica gel using hexanes/EtOAc (9:1). Removal of solvent under reduced pressure provided 8.05 g (31.65 mmol, 94.31%) of 6-phenylsulfanyl-3,4-dihydro-2H-naphthalen-1-one as a pale yellow oil. MS: 255 (M+H)+.

reactant | 6-fluoro-3,4-dihydro-2H-naphthalen-1-one | 33.56 mmol, 5.51 g | FC=1C=C2CCCC(C2=CC1)=O | C10H9FO
reactant | benzenethiol | 36.92 mmol, 3.79 mL, 4.07 g | C1(=CC=CC=C1)S | C6H6S
reactant | K2CO3 | 67.12 mmol, 9.28 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 500 mL | O | H2O
solvent | N-methylpyrrolidinone | 50 mL | CN1C(CCC1)=O | C5H9NO
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | 6-phenylsulfanyl-3,4-dihydro-2H-naphthalen-1-one | 31.65 mmol, 8.05 g, 94.31% | C1(=CC=CC=C1)SC=1C=C2CCCC(C2=CC1)=O | C16H14OS
